US04789750
201.0 g (0.57 mole) of (S)-(6-benzyloxy-2,5,7,8-tetramethylchroman-2-yl)acetic acid was dissolved in 1.0 L toluene and transferred to a 3 L three necked flask equipped with a Dean-Stark trap and condenser, magnetic stirrer and a thermometer connected to a heating mantle. The solution was refluxed 1 hour with no appreciable amount of water collecting in the Dean-Stark trap. This was removed, and the solution was cooled to 50° C. Then a pressure equalizing addition funnel was placed on top and the oxalyl chloride 58.5 mL (0.68 mole, 1.2 equiv.) was added dropwise at about one drop per second. The color became orange, and the temperature increased to about 60° C. as gas evolution began smoothly. The rate of addition was monitored so that gas evolution was not too vigorous. The gas evolved was bubbled through two aqueous sodium hydroxide traps. The slow addition was continued over about 1 hour and then heating was applied with a thermowatch keeping the heat at 60° C. The solution was then condensed on the rotovap, and after pumping off any residual solvent for 2 hours, 215.2 g (>100%) of (S)-(6-benzyloxy-2,5,7,8-tetramethyl chroman-2-yl)acetic acid chloride was obtained (211.45 g theoretical).

reactant | (S)-(6-benzyloxy-2,5,7,8-tetramethylchroman-2-yl)acetic acid | 0.57 mole, 201.0 g | C(C1=CC=CC=C1)OC=1C(=C2CC[C@@](OC2=C(C1C)C)(C)CC(=O)O)C | C22H26O4
reactant | water | O | H2O
reactant | oxalyl chloride | 0.68 mole, 58.5 mL, 1.2 equiv. | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | toluene | 1.0 L | C1(=CC=CC=C1)C | C7H8
product | (S)-(6-benzyloxy-2,5,7,8-tetramethyl chroman-2-yl)acetic acid chloride | 215.2 g, >100% | C(C1=CC=CC=C1)OC=1C(=C2CC[C@@](OC2=C(C1C)C)(C)CC(=O)Cl)C | C22H25ClO3
